US05236940
The procedure is as in Example 1, starting with 2-dimethylamino-4-trifluoromethoxyaniline (2 g), potassium thiocyanate (3.5 g) dissolved in acetic acid (30 cc) and bromine (1.45 g; 0.47 cc). Stirring is maintained for 12 hours at this temperature. The mixture is evaporated to dryness at 80° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue obtained is taken up with water (100 cc) and the pH is brought to 9-10 with concentrated sodium hydroxide (10N). After extraction with ethyl acetate (2×50 cc), washing of the combined phases with water (2×20 cc), drying over anhydrous magnesium sulphate and evaporating to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa), a brown oil is isolated, which oil is purified by flash chromatography on a column of silica under a stream of nitrogen at moderate pressure (0.5-1.5 bars), with a dichloromethane/methanol mixture (99:1 by volume). A solid is isolated, which is dissolved in ethyl ether (30 cc), and ethereal hydrogen chloride (6.2N) is added until precipitation is complete. 4-Dimethylamino-6-trifluoromethoxy-2-benzothiazolamine (0.7 g) is thereby isolated in the form of a dihydrochloride, m.p. 184° C.

reactant | 2-dimethylamino-4-trifluoromethoxyaniline | 2 g | CN(C1=C(N)C=CC(=C1)OC(F)(F)F)C | C9H11F3N2O
reactant | potassium thiocyanate | 3.5 g | [S-]C#N.[K+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | hydrogen chloride | 6.2N | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | acetic acid | 30 cc | C(C)(=O)O | C2H4O2
solvent | bromine | 0.47 cc, 1.45 g | BrBr | Br2
solvent | ethyl ether | 30 cc | C(C)OCC | C4H10O
solvent | water | 100 cc | O | H2O
product | 4-Dimethylamino-6-trifluoromethoxy-2-benzothiazolamine | 0.7 g | CN(C1=CC(=CC2=C1N=C(S2)N)OC(F)(F)F)C | C10H10F3N3OS
